US04472433
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (15 g.), 2-chlorophenol (11.7 g.), anhydrous pottassium carbonate (12.8 g.) and cupric oxide (1.5 g.) was treated in a similar manner to the above Preparations to give 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetic acid (4.6 g.). mp 162° to 164° C. A mixture of thus obtained product, ethanol and a small amount of conc. sulfuric acid was treated in a similar manner to the above to give oily ethyl 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate (5 g.).

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 15 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | 2-chlorophenol | 11.7 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | carbonate | 12.8 g | C([O-])([O-])=O
product | 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetic acid | 4.6 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)O | C14H10ClNO5
